US04508724
4-[(2,6-Dichlorophenoxy)methyl]-1-phenylmethyl-4-piperidinol Hydrochloride.[1:1]
The potassium salt of 2,6-dichlorophenol was formed by heating at 76° C. a mixture of 6.6 g (0.1 mole) of potassium hydroxide pellets (85%) and 16.3 (0.1 mole) of 2,6-dichlorophenol in 150 ml of dry dimethylformamide until a clear brown solution was obtained. The stirred solution was treated dropwise with 20.3 g (0.1 mole) of 6-benzyl-1-oxa-6-azaspiro[2.5]octane in 50 ml of dry dimethylformamide and heated at 80° C. for 120 hours. TLC (5% methyl benzene/silica gel G) indicated that the reaction was only 40% complete. The reaction mixture was treated with 4 volumes of water and the suspension extracted with three 100 ml portions of benzene. The extracts were combined, washed with 50 ml of 3N sodium hydroxide followed by three 50 ml portions of water, dried over magnesium sulfate and evaporated under reduced pressure to give 26.2 g of dark brown oil. The oil was chromatographed on a 500 g column of silica gel 60 and eluted with benzene followed by 1 to 10% acetone-benzene gradient. A small amount of 2,6-dichlorophenol was collected and discarded. The column was then eluted with a mixture of 1% methanol and 10% acetone in benzene. Fractions containing the product were combined and evaporated under reduced pressure to give 10.5 g of a yellow oil. The residual oil was converted to the hydrochloride salt in the usual way and recrystallized from acetone to give 5.2 g of product, m.p. 203°-205° C. with a phase change at 140°-153° C.

reactant | potassium hydroxide | 0.1 mole, 6.6 g | [OH-].[K+]
reactant | 2,6-dichlorophenol | ClC1=C(C(=CC=C1)Cl)O | C6H4Cl2O
reactant | 6-benzyl-1-oxa-6-azaspiro[2.5]octane | 0.1 mole, 20.3 g | C(C1=CC=CC=C1)N1CCC2(CO2)CC1 | C13H17NO
reactant | water | O | H2O
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-[(2,6-Dichlorophenoxy)methyl]-1-phenylmethyl-4-piperidinol Hydrochloride | 26.2 g | Cl.ClC1=C(OCC2(CCN(CC2)CC2=CC=CC=C2)O)C(=CC=C1)Cl | InChI=1S/C19H21Cl2NO2.ClH/c20-16-7-4-8-17(21)18(16)24-14-19(23)9-11-22(12-10-19)13-15-5-2-1-3-6-15;/h1-8,23H,9-14H2;1H
